US06653475B2
7-Chloro-3H-quinazolin-4-one
To a solution of 2-amino-4-chlorobenzamide (58 g, 0.34 mol) in hot (60° C.) N-methylpyrrolidone (170 mL), triethylorthoformate (151 g, 1.02 mol, 3 equiv) and a 1,4-dioxane 5N HCl solution (ca. 15 mL) were added. The resulting solution was heated at 110° C. for 18 h. Then, the mixture was cooled to room temperature, was poured over cold water and was brought to pH 7 with saturated NaHCO3 solution. The formed precipitate was filtered, washed with water and dried to give the desired product as a slightly beige solid (58 g, 94%).

reactant | 2-amino-4-chlorobenzamide | 0.34 mol, 58 g | NC1=C(C(=O)N)C=CC(=C1)Cl | C7H7ClN2O
reactant | triethylorthoformate | 1.02 mol, 151 g, 3 equiv | C(C)OC(OCC)OCC | C7H16O3
reactant | 1,4-dioxane | 5N, ca. 15 mL | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N-methylpyrrolidone | 170 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 7-Chloro-3H-quinazolin-4-one | ClC1=CC=C2C(NC=NC2=C1)=O | C8H5ClN2O
